US06956049B1
2-Bromo-1,3-thiazole (1.0 g, 6.2 mmol) and CuI (152.4 mg, 0.8 mmol) were combined in DME (17 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (3 mL, 21 mmol) and PdCl2(PPh3)2 (280 mg, 0.40 mmol) were added and 1-ethynyl-4-fluorobenzene (500 mg, 4.2 mmol) was added dropwise. The reaction was heated under reflux for 4 h at which time GC/MS showed the reaction was complete. The mixture was filtered through Celite™, and the filter pad was washed thoroughly with Ethyl acetate. The combined filtrates were then concentrated in vacuo. The residue was dissolved in ethyl acetate (100 mL), washed with water (100 mL), brine (100 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane then 98:2 hexane:ethyl acetate to 2-[(4-fluorophenyl)ethynyl]-1,3-thiazole as a white solid which was impure by 1H NMR analysis. The compound (280 mg) was dissolved in DMSO and purified by preparative HPLC with a 30 min gradient from 60:40 water:acetonitrile to 100% acetonitrile to afford 2-[(4-fluorophenyl)ethynyl]-1,3-thiazole (33 mg, 3% yield) as a white solid. M.p. 78–79° C. 1H NMR (CDCl3, 300 MHz) δ 7.83 (d, J=3.0 Hz, 1H), 7.60–7.55(m, 2H), 7.39 (d, J=3.0 Hz, 1H), 7.14–7.00 (m, 2H). MS (ESI) 204 (M++H).

reactant | 2-Bromo-1,3-thiazole | 6.2 mmol, 1.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | Triethylamine | 21 mmol, 3 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethynyl-4-fluorobenzene | 4.2 mmol, 500 mg | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | acetonitrile | C(C)#N | C2H3N
solvent | DME | 17 mL | COCCOC | C4H10O2
catalyst | CuI | 0.8 mmol, 152.4 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.40 mmol, 280 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[(4-fluorophenyl)ethynyl]-1,3-thiazole | 33 mg, 3% yield | FC1=CC=C(C=C1)C#CC=1SC=CN1 | C11H6FNS
